US05068392
Preparation of 2,6-Dichloro-4-bromo-3-methylaniline
A solution consisting of 2.07 g of N-(2,6-dichloro-4-bromo-3-methylphenyl)acetamide, 50 mL of ethanol, 25 mL of water and 25 mL of 50 percent NaOH were refluxed until hydrolysis was complete. The reaction mixture was cooled and extracted with ethyl ether. The extract was washed with water, dried over MgS04 and filtered. Removal of the solvent under reduced pressure gave 1.6 g of white solid. The product was purified by elution with pentane from a silica gel column and recrystallization from heptane (m.p. 67-69° C). 1H NMR (CCl4) δ7.33 (s, 1H), 4.40 (s, 2H, NH2), 2 40 (s, 3H, CH3).

reactant | N-(2,6-dichloro-4-bromo-3-methylphenyl)acetamide | 2.07 g | ClC1=C(C(=CC(=C1C)Br)Cl)NC(C)=O | C9H8BrCl2NO
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | NaOH | 25 mL | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
product | 2,6-Dichloro-4-bromo-3-methylaniline | 1.6 g | ClC1=C(N)C(=CC(=C1C)Br)Cl | C7H6BrCl2N
